US04100281
Synthesis of 3-Chloro-5-phenylthio-4H-1,2,6-thiadiazin-4-one
In one portion 2.5 g of trimethylamine was added to a solution of 4.6 g of 3,5-dichloro-4H-1,2,6-thiadiazin-4-one in 75 ml of ethyl ether in a 250 ml flask. A solution of 2.8 g of thiophenol in 25 ml of ethyl ether was then added dropwise to the flask during a 15 minute period. The reaction was allowed to stir for 3 hrs. after which it was filtered. The filter cake was washed with ether, and the filter cake was discarded. Successively, the ether solution was washed twice with 50 ml of water and once with 50 ml of saturated sodium chloride solution. The ether solution was then dried over anhydrous sodium sulfate. The ether was evaporated, leaving a solid residue which was recrystallized from 75 ml of cyclohexane. The yellow-orange 3-chloro-5-phenylthio-4H-1,2,6-thiadiazin-4-one weighed 3.6 g, mp 99.5°-101.5° C. (Lit. mp 102.5°-103.5° C, J. Geevers and W. P. Trompen, supra.). The ir spectrum was consistent with the assigned structure.

reactant | 3,5-dichloro-4H-1,2,6-thiadiazin-4-one | 4.6 g | ClC1=NSN=C(C1=O)Cl | C3Cl2N2OS
reactant | thiophenol | 2.8 g | C1(=CC=CC=C1)S | C6H6S
solvent | trimethylamine | 2.5 g | CN(C)C | C3H9N
solvent | ethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 25 ml | C(C)OCC | C4H10O
product | 3-Chloro-5-phenylthio-4H-1,2,6-thiadiazin-4-one | ClC1=NSN=C(C1=O)SC1=CC=CC=C1 | C9H5ClN2OS2
